US08022062B2
To 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (532 mg, 1.15 mmol) in methanol (8 mL) at ambient temperature add with stirring a solution of potassium carbonate (796 mg, 5.77 mmol) in water (4 mL) and stir the mixture for 2 h. Dilute with water, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. To a portion of the crude phenol thus obtained (204 mg, 0.487 mmol) in THF (5 mL), add with stirring diisopropyl azodicarboxylate (216 μl, 1.71 mmol) followed by triphenylphosphine (306 mg, 1.17 mmol) and cyclohexylmethanol (619 mg, 5.42 mmol). Heat at 60° C. for 3 h, cool to ambient temperature and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(4-cyclohexylmethoxy-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (176 mg, 70%). Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 416 (M+H)+.

reactant | 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.15 mmol, 532 mg | C(C)(=O)OC1=CC=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1 | C24H28ClNO4S
reactant | potassium carbonate | 5.77 mmol, 796 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropyl azodicarboxylate | 1.71 mmol, 216 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.17 mmol, 306 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclohexylmethanol | 5.42 mmol, 619 mg | C1(CCCCC1)CO | C7H14O
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 3-tert-butoxycarbonyl-7-chloro-6-(4-cyclohexylmethoxy-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 176 mg, 70% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)OCC2CCCCC2 | C29H38ClNO3S
